US07465795B2
4-amino-N-cyclobutyl-8-(2,6-dimethoxypyridin-3-yl)-7-fluoro-cinnoline-3-carboxamide
Using Method A, 4-amino-8-bromo-7-fluoro-N-cyclobutyl-cinnoline-3-carboxamide (175 mg) and 2,6-dimethoxypyridin-3-yl boronic acid (206 mg) were reacted to afford the title compound (122 mg) as white solid. 1H NMR (500 MHz, DMSO-d6) δ 9.22 (d, 1H), 8.50 (m, 1H), 7.73 (t, 1H), 7.67 (d, 1H), 6.53 (d, 1H), 4.49 (m, 1H), 3.95 (s, 3H), 3.80 (s, 3H), 2.26-2.10(m, 4H), 1.72-1.62 (m, 2H). MS APCI, m/z=398 (M+H).

reactant | 4-amino-8-bromo-7-fluoro-N-cyclobutyl-cinnoline-3-carboxamide | 175 mg | NC1=C(N=NC2=C(C(=CC=C12)F)Br)C(=O)NC1CCC1 | C13H12BrFN4O
reactant | 2,6-dimethoxypyridin-3-yl boronic acid | 206 mg | COC1=NC(=CC=C1B(O)O)OC | C7H10BNO4
product | 4-amino-N-cyclobutyl-8-(2,6-dimethoxypyridin-3-yl)-7-fluoro-cinnoline-3-carboxamide | 122 mg | NC1=C(N=NC2=C(C(=CC=C12)F)C=1C(=NC(=CC1)OC)OC)C(=O)NC1CCC1 | C20H20FN5O3
